US08563550B2
(5-Iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-(4-methoxyphenyl)amine (55 mg, 0.10 mmol) was suspended in 1,4-dioxane (1 mL) at room temperature and argon was bubbled into the mixture while tetrakis(triphenylphosphine)palladium(0) (0.011 mmol, 12 mg), 3-(N,N-dimethylamino)phenylboronic acid (0.202 mmol, 33 mg), cesium carbonate (0.268 mmol, 88 mg) and water (1 mL) were added. The mixture was deoxygenated for 10 minutes and heated under microwave irradiation at 140° C. for 1 hour. On cooling, the mixture was diluted with dichloromethane, adsorbed in silica and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.2:9.8 to 2:8). The obtained residue was further purified by preparative HPLC to give {5-[3-dimethylaminophenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl]}-(4-methoxyphenyl)-amine as a white solid (4 mg, 7% yield).

reactant | (5-Iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-(4-methoxyphenyl)amine | 0.10 mmol, 55 mg | IC1=CN=C2SC(=NN21)NC2=CC=C(C=C2)OC | C11H9IN4OS
reactant | 3-(N,N-dimethylamino)phenylboronic acid | 0.202 mmol, 33 mg | CN(C)C=1C=C(C=CC1)B(O)O | C8H12BNO2
reactant | cesium carbonate | 0.268 mmol, 88 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.011 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-methoxyphenyl)-amine | 4 mg, 7% yield | COC1=CC=C(C=C1)N | C7H9NO
